US05610142
Synthesis of 8-(t-Butoxycarbonyl)-4-keto-1-phenyl-1,3,8-triazaspiro[4.5]decan-3-acetic Acid (9, R=Ph,D=CH2 )
A stirred mixture of 2.96 g (7.8 mmol) of methyl 8-(t-butoxycarbonyl)-4-keto-1-phenyl-1.3.8-triazaspiro[4.5]decan-3-acetate, 2.03 g (14.7 mmol) of potassium carbonate, 30 ml of methanol and 10 ml of water was heated under reflux for 2 hours. The mixture was concentrated to about one-third of its original volume, diluted with 20 ml of water and acidified with 2N HCl at 0° C. The mixture was extracted with ethyl acetate and the extracts were washed with water and brine, dried, and concentrated in vacuo. Recrystallization of the residual solid from ethanol afforded 2.47 g (86%) of colorless crystals, mp 200°-201° C.

reactant | methyl 8-(t-butoxycarbonyl)-4-keto-1-phenyl-1.3.8-triazaspiro[4.5]decan-3-acetate | 7.8 mmol, 2.96 g | C(C)(C)(C)OC(=O)N1CCC2(C(N(CN2C2=CC=CC=C2)CC(=O)OC)=O)CC1 | C21H29N3O5
reactant | potassium carbonate | 14.7 mmol, 2.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 30 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 8-(t-Butoxycarbonyl)-4-keto-1-phenyl-1,3,8-triazaspiro[4.5]decan-3-acetic Acid | 2.47 g, 86% | C(C)(C)(C)OC(=O)N1CCC2(C(N(CN2C2=CC=CC=C2)CC(=O)O)=O)CC1 | C20H27N3O5
